US07714010B2
c) 2-Amino-1-isopropyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
Analogously to general procedure (III) 6-amino-5-isopropylamino-3,3-dimethyl-1-pentyl-1,3-dihydro-indol-2-one (180 mg) is cyclized using BrCN (3 M; 0.2 ml; 600 μmol) at RT in water (2.5 ml) and THF (1 ml). After aqueous work-up the desired compound (190 mg) is obtained.

reactant | 6-amino-5-isopropylamino-3,3-dimethyl-1-pentyl-1,3-dihydro-indol-2-one | 180 mg | NC1=C(C=C2C(C(N(C2=C1)CCCCC)=O)(C)C)NC(C)C | C18H29N3O
reactant | BrCN | 600 μmol, 3 M, 0.2 ml | BrC#N | CBrN
solvent | water | 2.5 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Amino-1-isopropyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 190 mg | NC1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1C(C)C | C19H28N4O
